US07091228B2
A suspension of 2-fluoro-4-iodophenylformamide (1.94 g, 7.35 mmol, prepared as described above), bis(pinacolato)diboron (1.86 g, 7.35 mmol), potassium acetate (2.16 g, 22.1 mmol), and palladium acetate (49.4 mg, 0.22 mmol) in N,N-dimethylformamide (50 mL) was degassed by bubbling a flow of argon through the mixture for 30 minutes. The mixture was then heated at 80° C. for 3 h. After the mixture was cooled to rt, methyl 4-(4-bromophenyl)-2,2-dimethyl-4-oxobutanoate (2.2 g, 7.4 mmol), tetrakis(triphenylphosphine)palladium(0) (254.8 mg, 0.22 mmol), and cesium carbonate (3.59 g, 11.0 mmol) were added, and the reaction mixture was heated at 80° C. for 16 h. The mixture was then cooled to rt and water was added. The mixture was extracted with ethyl acetate and the combined extracts were dried over sodium sulfate. The mixture was concentrated under reduced pressure and the crude was purified by flash chromatography (Biotage Flash 40M, 1:1 ethyl acetate/hexane) to afford methyl 4-[3′-fluoro-4′-(formylamino)-1,1′-biphenyl-4-yl]-2,2-dimethyl-4-oxobutanoate (1.2 g, 46%). LC-MS ret. time 2.80 min, m/z 358.1 (MH+); 1H NMR (300 MHz, DMSO-d6) δ 1.19 (s, 6H), 3.36 (s, 2H), 3.51 (s, 3H), 7.56 (d, 1H), 7.69 (dd, 1H), 7.82 (d, 2H), 7.99 (d, 3H), 8.21 (t), 10.25 (s, 1H).

reactant | 2-fluoro-4-iodophenylformamide | 7.35 mmol, 1.94 g | FC1=C(C=CC(=C1)I)NC=O | C7H5FINO
reactant | bis(pinacolato)diboron | 7.35 mmol, 1.86 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 22.1 mmol, 2.16 g | C(C)(=O)[O-].[K+]
reactant | methyl 4-(4-bromophenyl)-2,2-dimethyl-4-oxobutanoate | 7.4 mmol, 2.2 g | BrC1=CC=C(C=C1)C(CC(C(=O)OC)(C)C)=O | C13H15BrO3
reactant | cesium carbonate | 11.0 mmol, 3.59 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.22 mmol, 49.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.22 mmol, 254.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | O | H2O
product | methyl 4-[3′-fluoro-4′-(formylamino)-1,1′-biphenyl-4-yl]-2,2-dimethyl-4-oxobutanoate | 1.2 g, 46% | FC=1C=C(C=CC1NC=O)C1=CC=C(C=C1)C(CC(C(=O)OC)(C)C)=O | C20H20FNO4
